US04684658
A solution of tosylmethyl isocyanide (7.5 g) in 1,2-dimethoxyethane (50 cc) is added over 20 minutes at a temperature of about -30° C. to a solution of potassium tert-butylate (8.7 g) in 1,2-dimethoxyethane (140 cc) cooled to a temperature of about -30° C. The solution obtained is cooled to a temperature of about -60° C., and then a solution of 5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxaldehyde (8 g) in 1,2-dimethoxyethane (70 cc) is added to it over 30 minutes at a temperature of about -60° C. The solution obtained is brought to a temperature of about 0° C. over 1 hour and then kept at this temperature for 1 hour and 20 minutes. Methanol (105 cc) is then added over 15 minutes, at a temperature of between 3 and 7° C. The solution obtained is heated at a temperature of about 72° C. for 1 hour and 15 minutes and is then stirred at a temperature of about 20° C. for 16 hours. Three-quarters of the solvent are evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 40° C. The residue is taken up with a mixture of distilled water (350 cc) and ethyl acetate (250 cc). The organic phase is separated off and the aqueous phase is extracted 3 times with ethyl acetate (750 cc in total). The organic extracts are combined, washed 3 times with distilled water (450 cc in total), dried over anhydrous magnesium sulphate, treated with decolourising charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 50° C. A crude product (7.6 g) is thus obtained. This product is chromatographed on a 2.7 cm diameter column containing silica (0.063-0.2 mm; 75 g) by eluting with mixtures of cyclohexane and ethyl acetate and collecting 200-cc fractions. The first 2 fractions from the elution with a mixture of cyclohexane and ethyl acetate (50:50 by volume) are rejected. The next 3 fractions from the elution with a mixture of cyclohexane and ethyl acetate (50:50 by volume) and the following fraction from the elution with pure ethyl acetate, are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. 2-[-5-(3-Pyridyl)-1H,3H-pyrrolo[1,2-c]thiazol-7-yl]acetonitrile (6 g) is thus obtained in the form of light yellow crystals melting at 92° C.

reactant | tosylmethyl isocyanide | 7.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butylate | 8.7 g | CC(C)(C)[O-].[K+]
reactant | 5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxaldehyde | 8 g | N1=CC(=CC=C1)C1=CC(=C2N1CSC2)C=O | C12H10N2OS
reactant | Methanol | 105 cc | CO | CH4O
solvent | 1,2-dimethoxyethane | 50 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 140 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 70 cc | COCCOC | C4H10O2
product | 2-[-5-(3-Pyridyl)-1H,3H-pyrrolo[1,2-c]thiazol-7-yl]acetonitrile | 6 g | N1=CC(=CC=C1)C1=CC(=C2N1CSC2)CC#N | C13H11N3S
